US08012974B2
(3R,5R)-3-tert-Butoxycarbonylamino-5-methyl-piperidine-1-carboxylic acid benzyl ester (3.25 g, 9.327 mmol) was dissolved in DCM (50 mL) and HCl 4M in dioxane (20 mL, 80 mmol) was added. The resulting colorless solution stirred at RT for 4 hours before being evaporated. The residue was dried under high vacuum overnight to give 2.89 g of (3R,5R)-3-amino-5-methyl-piperidine-1-carboxylic acid benzyl ester hydrochloride as a white foam (>95% yield).

reactant | (3R,5R)-3-tert-Butoxycarbonylamino-5-methyl-piperidine-1-carboxylic acid benzyl ester | 9.327 mmol, 3.25 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](C[C@H](C1)C)NC(=O)OC(C)(C)C | C19H28N2O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 80 mmol, 20 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (3R,5R)-3-amino-5-methyl-piperidine-1-carboxylic acid benzyl ester hydrochloride | 2.89 g, >95% yield | Cl.C(C1=CC=CC=C1)OC(=O)N1C[C@@H](C[C@H](C1)C)N | InChI=1S/C14H20N2O2.ClH/c1-11-7-13(15)9-16(8-11)14(17)18-10-12-5-3-2-4-6-12;/h2-6,11,13H,7-10,15H2,1H3;1H/t11-,13-;/m1./s1
